US07393652B2
By way of example, and as shown in Example 7 and Scheme 1 below, 7-methoxy-2,3,4,5-tetrahydro-1,4-benzothiazepine may be prepared from 2-nitro-5-methoxybenzoic acid as follows. The nitro group of 2-nitro-5-methoxybenzoic acid is reduced, using H2 with Pd/C as a catalyst, to give 2-amino-5-methoxybenzoic acid. 2-amino-5-methoxybenzoic acid may be diazotized with NaNO2, and then treated with Na2S2, to provide a stable disulfide compound. Without further purification, the stable disulfide compound may be treated with SOCl2, and then reacted with 2-chloroethylamine, in the presence of Et3N, to give an amide. The amide compound may then be converted to a cyclized compound via a one-pot procedure, as follows. A reducing reagent (such as trimethylphosphine or triphenylphosphine) and a base (such as triethylamine) may be added to a solution of the amide compound in THF (tetrahydrofuran). The resulting reaction mixture may then be refluxed for 3 h. The reducing agent (trimethylphosphine or triphenylphine) cleaves the disulfide (S—S) to its monosulfide (—S), which, in situ, undergoes intramolecular cyclization with the chloride to yield a cyclized amide. The cyclized amide may then be reduced with LiAlH4 to yield the 1,4-benzothiazepine intermediate, 7-methoxy-2,3,4,5-tetrahydro-1,4-benzothiazepine. JTV-519 may then be prepared from 7-methoxy-2,3,4,5-tetrahydro-1,4-benzothiazepine by reacting the 7-methoxy-2,3,4,5-tetrahydro-1,4-benzothiazepine with 3-bromopropionic chloride, and then reacting the resulting compound with 4-benzyl piperidine.

reactant | 7-methoxy-2,3,4,5-tetrahydro-1,4-benzothiazepine | COC=1C=CC2=C(CNCCS2)C1 | C10H13NOS
reactant | 2-nitro-5-methoxybenzoic acid | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)OC | C8H7NO5
catalyst | Pd/C | [Pd] | Pd
product | 2-amino-5-methoxybenzoic acid | NC1=C(C(=O)O)C=C(C=C1)OC | C8H9NO3
